Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old transmale with history of recurrent
UTIs, depression and asthma who presented with 5 days of
abdominal pain, nausea, vomiting, and diarrhea.

In the ED he reported onset of abdominal pain with associated
nausea, emesis and diarrhea on ___. At that time he 
presented
to ___ where he was diagnosed with gastritis and discharged home
on Zofran. Since the onset of symptoms he has been unable to
tolerate fluids or solids. On ___ his abdominal pain
worsened. It radiates from the epigastrium superiorly and
inferiorly and is constant and ___. He reported 4 episodes of
emesis on day of presentation, and reports lightheadedness.

He was recently diagnosed with BV and was placed on penicillin
x10days for treatment of UTI. He also reported runny nose and
cough. 

Of note he was hospitalized for stomach pains at age ___ and was
admitted for two weeks, with no conclusive findings regarding
etiology of his stomach pain.

- In the ED, initial vitals were: T 98.5, HR 108, BP 145/78, RR
18, SPO2 98% RA

- Exam was notable for:
General: Male actively vomiting in emesis bag. 
Abdomen: Soft and mild to moderate tenderness to palpation of
upper abdomen. No rebound or guarding.
Extremities: No ___ swelling.

- Labs were notable for: WBC 9.2, Cr 1.1, K 4.3, Cl 97, bicarb 
24
UA with mod leuks, few bacteria and 22 WBC

- Studies were notable for: CT AP with no acute findings to
explain his symptoms

- The patient was given: Zofran 4 mg IV x3, Reglan 10 mg IV x1,
diphenhydramine 25 mg IV x1, haloperidol 1 mg IV x3, Ativan 2 mg
IV x2, Compazine 10 mg IV x1, ceftriaxone 1g IV x2, 3L LR, 1L 
NS,
acetaminophen 650 mg PO x1

On arrival to the floor, he reports that some of the antiemetics
help reduce the nausea sometimes, but he is not sure which ones.
He continues to have stomach pain constantly, even at rest. His
last HIV test was several weeks ago and was negative.

 
Past Medical History:
Asthma
Depression
Anxiety
Recurrent UTIs
s/p male chest reconstruction ___
s/p TAH/BSO ___
 
Social History:
___
Family History:
No history of GI conditions or stomach problems in immediate
family. Maternal aunt with history of diverticulitis.
 
Physical Exam:
Admission: 
VITALS: T 98.2, BP 109/60, HR 106, RR 17, SPO2 96% RA
GENERAL: Interactive, tired appearing. Mild distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, tachycardic. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Obese. Normal bowels sounds, non distended, tender to
deep palpation of epigastrium. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.
 
Pertinent Results:
___ 06:47PM BLOOD WBC-8.5 RBC-5.45 Hgb-14.1 Hct-43.2 
MCV-79* MCH-25.9* MCHC-32.6 RDW-14.8 RDWSD-42.6 Plt ___
___ 06:47PM BLOOD Glucose-86 UreaN-7 Creat-0.8 Na-137 K-4.0 
Cl-100 HCO3-22 AnGap-15

___ CT AP w/ contrast
1. No acute findings in the abdomen or pelvis to explain the
patient's symptoms.  Normal appendix. 
2. Fluid within the colon and rectum is compatible with the
history of ongoing diarrheal illness.  No colitis or bowel
obstruction. 
3. Pelvic sidewall lymph nodes measuring up to 12 mm are
nonspecific, possibly reactive. 
4. Mild splenomegaly. 
 
Brief Hospital Course:
PATIENT SUMMARY
===============
Mr. ___ is a ___ year old transmale with history of recurrent
UTIs, depression and asthma who presented with 5 days of
abdominal pain, nausea, vomiting, and diarrhea concerning for 
viral gastroenteritis. 

ACUTE ISSUES
============
# Abdominal pain
# Nausea, vomiting, diarrhea
The patient presented with 5 days of epigastric abdominal pain 
associated with nausea, vomiting, and diarrhea. Patient appeared 
to be dehydrated in the emergency department, and was treated 
with IV fluids. CT abdomen pelvis showed no evidence of 
obstruction or other pathology to explain his symptoms. His 
presentation is most consistent with viral gastroenteritis. 
Patient was started on a clear liquid diet, which he tolerated 
well. We will continue 20 mg of omeprazole for 14 days as an 
outpatient for possible gastritis.

# Sterile pyuria
Patient reports history of multiple UTIs in past, and recently 
completed a 10 day course of penicillin on ___ for UTI. UA in 
ED shows sterile pyuria but urine culture was negative (in the
setting of antibiotic use). He denies recent dysuria. Given that 
the patient was asymptomatic, we did not continue antibiotics in 
the hospital.

CHRONIC ISSUES 
==============
# Asthma
Patient was continued on home Flovent.

# Depression
Patient was continued on home Bupropion.

TRANSITIONAL ISSUES
===================
None

MEDICATION CHANGES
==================
Omeprazole 20 mg daily for 14 days
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Testosterone Cypionate 200 mg IM EVERY 4  WEEKS (SA) 
2. BuPROPion XL (Once Daily) 150 mg PO DAILY 
3. Penicillin V Potassium 500 mg PO BID 
4. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY Duration: 14 Days 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*14 
Capsule Refills:*0 
2.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
3.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
4.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
5.  Penicillin V Potassium 500 mg PO BID  
6.  Testosterone Cypionate 200 mg IM EVERY 4  WEEKS (SA)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Attending Note: 
I have personally seen and examined this patient on ___ and 
reviewed all components of this discharge Summary.  I agree with 
documentation and plan of care with the following additional 
comments.  Pt's abdominal pain and nausea improved and he was 
able to tolerate a clear diet.  His abdominal exam was notable 
for diffuse tenderness w/o r/r/g.  Vitals were stable.  Pt's 
presentation is most consistent with a viral gastroenteritis.  
Plan to discharge home today with close followup with primary 
team.

25 min spent coordinating the care of this patient.

___ Attending
Pager ___
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted because you had abdominal cramping, pain, 
diarrhea, nausea and vomiting.

What happened while I was in the hospital?  
- We performed a CT scan of your abdomen, which showed no 
concerning findings to explain your symptoms.  You were given 
intravenous fluids because of concern for dehydration, and 
antinausea medications. 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team
 
Followup Instructions:
___